US09388197B2
A.1.6.1. 2-Bromo-3-oxocyclopentanecarbonitrile
Bicyclo[2.2.1]hepta-2,5-diene (0.84 g, 9.14 mmol), followed by Gd(OTf)3 (1.84 g, 3.05 mmol), 2-cyclopenten-1-one (5.00 g, 60.9 mmol) and TMS—CN (9.25 g, 91.4 mmol) were added to a degassed solution of Ni(cod)2 (0.84 g, 3.04 mmol) in THF (160 mL) and the mixture was stirred at RT for 4 h. Subsequently, the mixture was quenched with solid NaHCO3 and aq. sat. NaHCO3 and extracted with EtOAc. The comb. org. layers were washed with brine, dried over MgSO4 and conc. in vacuo. The residue, a yellow oil, was dissolved in THF/H2O (450 mL, 9:1). At 0° C., NBS (11.98 g, 67.3 mmol) was added and the mixture was stirred at 0° C. for 30 min. Subsequently, the mixture was quenched with aq. sat. Na2SO3 and extracted with EtOAc. The comb. org. layers were washed with aq. 5% NaHCO3 and brine, dried over Na2SO4, and conc. in vacuo. The residue was re-dissolved in EtOAc, washed multiple times with aq. 5% NaHCO3 and brine, the combined org. layer were dried over Na2SO4, and conc. in vacuo to provide a brown liquid.

reactant | Bicyclo[2.2.1]hepta-2,5-diene | 9.14 mmol, 0.84 g | C12C=CC(C=C1)C2 | C7H8
reactant | Gd(OTf)3 | 3.05 mmol, 1.84 g | C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].[Gd+3]
reactant | 2-cyclopenten-1-one | 60.9 mmol, 5.00 g | C1(C=CCC1)=O | C5H6O
reactant | TMS—CN | 91.4 mmol, 9.25 g | [Si](C)(C)(C)C#N | C4H9NSi
reactant | NBS | 67.3 mmol, 11.98 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | THF | 160 mL | C1CCOC1 | C4H8O
catalyst | Ni(cod)2 | 3.04 mmol, 0.84 g | C1/C=C\CC/C=C\C1.C1/C=C\CC/C=C\C1.[Ni]
product | 2-Bromo-3-oxocyclopentanecarbonitrile | BrC1C(CCC1=O)C#N | C6H6BrNO
